US06821965B1
4-methyl-3-[3-(4-methylpiperazin-1-ylmethyl)benzamido]-N-(3-morpholinophenyl)benzamide
N-Methylpiperazine (0.036 g) was added to a mixture of 3-(3-chloromethylbenzamido)-4-methyl-N-(3-morpholinophenyl)benzamide (0.15 g), potassium carbonate (0.09 g) and acetone (5 ml) and the resultant mixture was stirred and heated to 60° C. for 16 hours. The mixture was evaporated and the residue was partitioned between methylene chloride and a saturated aqueous sodium bicarbonate solution. The organic phase was dried over magnesium sulphate and evaporated. The residue was purified by column chromatography on silica gel using methanol as eluent. The product so obtained was dissolved in ethyl acetate and precipitated by the addition of isohexane. There was thus obtained the title compound (0.071 g); NMR Spectrum: (DMSOd6) 2.1 (s, 3H), 2.3 (s, 3H), 2.2-2.4 (m, 8H), 3.1 (t, 4H), 3.55 (s, 2H), 3.75 (t, 4H), 6.65-6.7 (m, 1H), 7.18 (t, 1H), 7.3-7.35 (m, 1H), 7.38-7.55 (m, 4H), 7.78-7.8 (m, 1H), 7.85-7.9 (m, 2H), 7.95 (s, 1H); Mass Spectrum: M+H+ 528.

reactant | N-Methylpiperazine | 0.036 g | CN1CCNCC1 | C5H12N2
reactant | 3-(3-chloromethylbenzamido)-4-methyl-N-(3-morpholinophenyl)benzamide | 0.15 g | ClCC=1C=C(C(=O)NC=2C=C(C(=O)NC3=CC(=CC=C3)N3CCOCC3)C=CC2C)C=CC1 | C26H26ClN3O3
reactant | potassium carbonate | 0.09 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 5 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-methyl-3-[3-(4-methylpiperazin-1-ylmethyl)benzamido]-N-(3-morpholinophenyl)benzamide | 0.071 g | CC1=C(C=C(C(=O)NC2=CC(=CC=C2)N2CCOCC2)C=C1)NC(C1=CC(=CC=C1)CN1CCN(CC1)C)=O | C31H37N5O3
